US06294558B1
5-[3-Fluoro-4-(methylsulfonyl)phenyl]-1-[4-(2-furyl)phenyl]-2-methyl-1H-pyrrole (Step 4)
To a stirred suspension of 1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-5-methyl-1H-pyrrole (0.41 g, 1 mmol), 2-furanboronic acid (0.14 g, 1.26 mmol), NaHCO3 (0.19 g, 2.3 mmol) in DME-water (6 mL-2 mL) was added dichlorobis(triphenylphosphine) palladium (80 mg, 0.115 mmol) at room temperature under nitrogen. The mixture was heated at reflux temperature for 6 hours. After cooling, volatiles were removed by evaporation. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/2) to give the title compound (0.24 g, 61% yield).

reactant | 1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-5-methyl-1H-pyrrole | 1 mmol, 0.41 g | BrC1=CC=C(C=C1)N1C(=CC=C1C)C1=CC(=C(C=C1)S(=O)(=O)C)F | C18H15BrFNO2S
reactant | 2-furanboronic acid | 1.26 mmol, 0.14 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | NaHCO3 | 2.3 mmol, 0.19 g | C(=O)(O)[O-].[Na+]
solvent | DME water | 6 mL-2 mL | COCCOC.O
product | 5-[3-Fluoro-4-(methylsulfonyl)phenyl]-1-[4-(2-furyl)phenyl]-2-methyl-1H-pyrrole | 0.24 g, 61% yield | FC=1C=C(C=CC1S(=O)(=O)C)C1=CC=C(N1C1=CC=C(C=C1)C=1OC=CC1)C | C22H18FNO3S
